US09371305B2
Step 1: 2-hydroxy-3-iodo-5-(trifluoromethoxy)benzaldehyde
2-hydroxy-5-(trifluoromethoxy)benzaldehyde (2.0 g, 9.7 mmol) was dissolved into DMF (20 mL) and then added with NIS (5.4 g, 24 mmol) in batches. The mixture was stirred for 2 days at room temperature. At the end of reaction, saturated sodium thiosulfate solution was added and extracted with ethyl acetate, and the organic phase was dried and evaporated in vacuum to obtain the product (0.30 g, 78%) by column chromatography.

reactant | 2-hydroxy-5-(trifluoromethoxy)benzaldehyde | 9.7 mmol, 2.0 g | OC1=C(C=O)C=C(C=C1)OC(F)(F)F | C8H5F3O3
reactant | NIS | 24 mmol, 5.4 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-hydroxy-3-iodo-5-(trifluoromethoxy)benzaldehyde | 0.30 g, 78% | OC1=C(C=O)C=C(C=C1I)OC(F)(F)F | C8H4F3IO3
